US07745467B2
1.1. Ethyl 5-fluoro-1-[(pyrid-4-yl)methyl]-1H-indole-2-carboxylate
A solution of 1 g (4.73 mmol) of ethyl 5-fluoro-1H-indole-2-carboxylate is added dropwise to a suspension of 0.38 g (9.45 mmol) of 60% sodium hydride in 10 ml of dimethylformamide, stirred at 0° C. under argon. The mixture is stirred for 30 minutes at 0° C. and then for 30 min at 20° C. The reaction mixture is cooled and 1.24 g (4.2 mmol) of 4-bromomethylpyridine hydrobromide are added portionwise. The mixture is stirred for 30 minutes at 0° C. and then for 30 minutes at 20° C. The reaction mixture is cooled again to 0° C. and a further 0.38 g (9.45 mmol) of 60% sodium hydride in 10 ml of dimethylformamide is added. After 30 minutes at 0° C., 1.24 g (4.2 mmol) of 4-bromomethylpyridine hydrobromide are added portionwise. The reaction mixture is then stirred for 20 hours at 20° C. After this time, the mixture is poured into a solution of 100 ml of ice-water and 100 ml of ethyl ether. The organic phase is separated out and the aqueous phase is re-extracted with 100 ml of ethyl ether. The organic phases are combined, washed with 50 ml of water and then dried over sodium sulfate, filtered and then concentrated under reduced pressure. The residue is purified by preparative chromatography (eluent: dichloromethane/acetone). 0.65 g of expected product is obtained in the form of an oil, which is used without further purification in the subsequent synthesis.

reactant | ethyl 5-fluoro-1H-indole-2-carboxylate | 4.73 mmol, 1 g | FC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10FNO2
reactant | sodium hydride | 9.45 mmol, 0.38 g | [H-].[Na+]
reactant | 4-bromomethylpyridine hydrobromide | 4.2 mmol, 1.24 g | Br.BrCC1=CC=NC=C1
reactant | sodium hydride | 9.45 mmol, 0.38 g | [H-].[Na+]
reactant | 4-bromomethylpyridine hydrobromide | 4.2 mmol, 1.24 g | Br.BrCC1=CC=NC=C1
reactant | ethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Ethyl 5-fluoro-1-[(pyrid-4-yl)methyl]-1H-indole-2-carboxylate | 0.65 g | FC=1C=C2C=C(N(C2=CC1)CC1=CC=NC=C1)C(=O)OCC | C17H15FN2O2
